US06331549B1
1.72 g (7.45 mmol) of (−)-2-ethyl-3-methyl-8-(1(R),2-dihydroxyethyl)quinoline, 25 ml of dichloromethane and 0.75 g of imidazole are introduced into a 100 ml round-bottomed flask. The mixture is cooled to 0° C., 1.12 g (7.45 mmol) of tert-butyldimethylchlorosilane are added and the resulting mixture is stirred for 2 hours at 0° C. 50 ml of water are added and this mixture is extracted with ethyl acetate (3×80 ml). The organic phases are combined, dried over magnesium sulphate and concentrated. The residue is purified by chromatography on a column of silica (elution solvent: 10% ethyl acetate in hexane). 1.85 g (yield: 72%) of (+)-2-ethyl-3-methyl-8-(1(S)-hydroxy-2-[tert-butyldimethylsilyloxy]-ethyl)quinoline are obtained in the form of an oil.

reactant | (−)-2-ethyl-3-methyl-8-(1(R),2-dihydroxyethyl)quinoline | 7.45 mmol, 1.72 g | C(C)C1=NC2=C(C=CC=C2C=C1C)[C@H](CO)O | C14H17NO2
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
reactant | imidazole | 0.75 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 7.45 mmol, 1.12 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | water | 50 ml | O | H2O
product | (+)-2-ethyl-3-methyl-8-(1(S)-hydroxy-2-[tert-butyldimethylsilyloxy]-ethyl)quinoline | 1.85 g, yield: 72% | C(C)C1=NC2=C(C=CC=C2C=C1C)[C@@H](CO[Si](C)(C)C(C)(C)C)O | C20H31NO2Si
